US07332512B2
1,1-Bis-(4-methylphenylthio)-2-nitro-3,4,4-trichlorobuta-1,3-diene
At 0° C., 5.05 g (75 mmol) of sodium ethoxide in 10 ml of ethanol are added dropwise over a period of 10 min to a solution of 10.00 g (36.9 mmol) of 2-nitropentachloro-1,3-butadiene and 9.3 g (75 mmol) of 4-methylthiophenol in 50 ml of ethanol. After 2 h of stirring at 0° C., the precipitate is separated off, washed with water and cold methanol (2×20 ml) and dried under reduced pressure, yield 14.5 g (88%), Rf=0.68 (Et2O: petroleum ether=1:3), m.p. 117-118° C.

reactant | sodium ethoxide | 75 mmol, 5.05 g | [O-]CC.[Na+]
reactant | 2-nitropentachloro-1,3-butadiene | 36.9 mmol, 10.00 g | [N+](=O)([O-])C(=C(Cl)Cl)C(=C(Cl)Cl)Cl | C4Cl5NO2
reactant | 4-methylthiophenol | 75 mmol, 9.3 g | CC1=CC=C(C=C1)S | C7H8S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,1-Bis-(4-methylphenylthio)-2-nitro-3,4,4-trichlorobuta-1,3-diene | CC1=CC=C(C=C1)SC(=C(C(=C(Cl)Cl)Cl)[N+](=O)[O-])SC1=CC=C(C=C1)C | C18H14Cl3NO2S2
